US05028738
A 1N aqueous solution of sodium hydroxide (20 ml; 20 mmoles) was slowly added to 1.94 g (10 mmoles) of p-methoxyphenylpyruvic acid and a solution of 1.0 ml of methyl iodide in 50 m 1 of methanol. After addition, the mixture was stirred at room temperature for 4 hours. The mixture was acidified with 1N hydrochloric acid and extracted with three 30 ml portions of ether. The ether layers were dried over magnesium sulfate, and the ether was evaporated under reduced pressure to give a pale yellowish white solid. The NMR spectral analysis of this product led to the determination that this product was nearly pure 2-oxo-3-(p-methoxyphenyl)butanoic acid (1.40 g; yield 67 %).

reactant | sodium hydroxide | 20 mmoles, 20 ml | [OH-].[Na+]
reactant | p-methoxyphenylpyruvic acid | 10 mmoles, 1.94 g | COC1=CC=C(C=C1)CC(C(=O)O)=O | C10H10O4
reactant | methyl iodide | 1.0 ml | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-oxo-3-(p-methoxyphenyl)butanoic acid | 1.40 g, yield 67 % | O=C(C(=O)O)C(C)C1=CC=C(C=C1)OC | C11H12O4
